US05169843
7-[2-(2-Aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(3,4-dioxo-2-hydroxy-1-cyclobutenyl)-3-cephem-4-carboxylic acid (Id4)
A solution of aluminum chloride (82 mg, 0.612 mmol) in nitromethane (1 mL) was added rapidly to a stirred, cooled (ice/H2O bath) solution of diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(2-benzyloxy-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate (50 mg, 0.068 mmol) and anisole (66 mg, 0.612 mmol) in CH2Cl2 (1 mL). The mixture was stirred with cooling for 0.33 hr and then for 2 hrs at ambient temperatures. The solution was cooled and diluted with dilute aqueous hydrochloric acid to precipitate a solid which was collected and discarded. The aqueous filtrate was washed with ethyl acetate. The aqueous layer was applied to a Michel-Miller HPLPLC column (22×130 mm) containing Partisil Prep 40 ODS-3. The column was eluted with a mixture of H2O-acetonitrile-acetic acid (90:10:0.5). The appropriate fractions were combined and the organic solvents removed. Lyophilization of the aqueous solution afforded the title compound (2.5 mg, 7.7 % yield) as a bright yellow solid.

reactant | aluminum chloride | 0.612 mmol, 82 mg | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | diphenylmethyl 7-[2-(2-aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(2-benzyloxy-3,4-dioxo-1-cyclobutenyl)-3-cephem-4-carboxylate | 0.068 mmol, 50 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)OCC2=CC=CC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC | C37H29N5O8S2
reactant | anisole | 0.612 mmol, 66 mg | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 1 mL | [N+](=O)([O-])C | CH3NO2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | Cl | ClH
product | 7-[2-(2-Aminothiazol-4-yl)-(Z)-2-methoxyiminoacetamido]-3-(3,4-dioxo-2-hydroxy-1-cyclobutenyl)-3-cephem-4-carboxylic acid | 2.5 mg, 7.7 % yield | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)C2=C(C(C2=O)=O)O)C(=O)O)C1=O)=N/OC | C17H13N5O8S2
